US05807857
b) 4-Benzyl-1-[4-(1,3-dioxolan-2-yl)-2-(ethoxycarbonyl)-butyryl]piperazine
To a stirred suspension of sodium hydride (60% dispersion in oil, 1.4 g) in anhydrous dimethylformamide (50 ml) was added dropwise, under nitrogen, a solution of 4-benzyl-1-[(ethoxycarbonyl)acetyl]-piperazine (8.5 g, 29.3 mmol) in anhydrous dimethylformamide (50 ml) over 25 minutes at room temperature. After a further 30 minutes at room temperature, 2-(2-bromoethyl)-1,3-dioxolane (3.6 ml, 30.7 mmol) was added dropwise over 3 minutes and the resulting yellow solution was stirred for 24 hours. Water (400 ml) was added and products were extracted with diethyl ether (3×300 ml). The combined ethereal phases were washed with brine (1×150 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, diethyl ether--ethanol, 95:5) afforded 8 g of the title compound (70%) as a colourless oil, δ (360 MHz, CDCl3), 1.25 (3H, t, J=7.1Hz), 1.56-1.78 (2H, m), 2.06 (2H, q, J=7.4Hz), 2.44 (4H, br s), 3.46-3.96 (11H, m), 4.16 (2H, q, J=7.1Hz), 4.86 (1H, t, J=4.6Hz), 7.24-7.36 (5H, m); m/e (ES) 391 (M+1)+.

reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 4-benzyl-1-[(ethoxycarbonyl)acetyl]-piperazine | 29.3 mmol, 8.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C(CC(=O)OCC)=O | C16H22N2O3
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 30.7 mmol, 3.6 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | Water | 400 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Benzyl-1-[4-(1,3-dioxolan-2-yl)-2-(ethoxycarbonyl)-butyryl]piperazine | 8 g, 70% | C(C1=CC=CC=C1)N1CCN(CC1)C(C(CCC1OCCO1)C(=O)OCC)=O | C21H30N2O5
